US06706663B2
Preparation of 3-[3-(4-Hydroxy-5-oxo-2-phenyl-2-imidazolin-4-yl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)uracil
A mixture of 5-[3-,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-glyoxylate (0.620 g, 1.50 mmol), phenyl amidine hydrochloride (0.258 g, 1.65 mmol) and 2-methoxyethanol is stirred 40 minutes at reflux, cooled to room temperature and poured into water. The resultant yellow precipitate is filtered and saved. The filtrate is extracted four times with methylene chloride; the combined organic layers are concentrated in vacuo and the residue is triturated with ether to afford a yellow solid. The yellow solids are combined and chromatographed on silica gel with methylene chloride-methanol to afford the title compound as a solid (0.110 g, 14.6%, mp 139-141° C.) which is identified by NMR spectral analysis.

reactant | 5-[3-,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-glyoxylate | 1.50 mmol, 0.620 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C(C(=O)[O-])=O)C1)=O
reactant | 2-methoxyethanol | COCCO | C3H8O2
solvent | water | O | H2O
product | 3-[3-(4-Hydroxy-5-oxo-2-phenyl-2-imidazolin-4-yl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)uracil | 0.110 g, 14.6% | OC1(N=C(NC1=O)C1=CC=CC=C1)C1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C22H14F3N5O4S
